US07989463B2
Step (iii): Synthesis of 1-[4-(2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid methyl ester
Diisopropylethylamine (45.9 mL, 264.55 mmol) was added slowly to a solution of 2,4-dichloro-6,7-dihydro-5H-cyclopentapyrimidine (10 g, 52.91 mmol) and 1-(4-amino-phenyl)-cyclobutanecarboxylic acid methyl ester (13.015 g, 63.49 mmol) in anhydrous ethanol (100 mL) under stirring at 10° C. Thereafter, the mixture was heated at reflux for 48 hours and then concentrated under reduced pressure. The residue was purified by chromatography (silica gel) to afford the title compound as a light yellow solid (11.7 g, 62% yield).

reactant | Diisopropylethylamine | 264.55 mmol, 45.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,4-dichloro-6,7-dihydro-5H-cyclopentapyrimidine | 52.91 mmol, 10 g | ClC1=NC2=C(C(=N1)Cl)CCC2 | C7H6Cl2N2
reactant | 1-(4-amino-phenyl)-cyclobutanecarboxylic acid methyl ester | 63.49 mmol, 13.015 g | COC(=O)C1(CCC1)C1=CC=C(C=C1)N | C12H15NO2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-[4-(2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid methyl ester | 11.7 g, 62% yield | COC(=O)C1(CCC1)C1=CC=C(C=C1)NC1=NC(=NC2=C1CCC2)Cl | C19H20ClN3O2
